US05583130
Step L: 1-(2-Trimethylsilylethoxy)methyl-1H-imidazole-4-acetic acid, ethyl ester;
To a solution of 383 gm (2.48 mmol) of 1H-imidazole-4-acetic acid ethyl ester (prepared according to the procedure of Bashkin et al; J. Org. Chem., 1990, 55, 5125-5132.) in 5 mL of dry tetrahydrofuran under a nitrogen atmosphere was added 109 mg (2.73 mmol) of 60% sodium hydride/oil dispersion. The resulting mixture was stirred for 30 minutes at which time was added dropwise by syringe 0.53 mL (3.0 mmol) of 2-trimethylsilylethoxymethyl chloride. The reaction mixture was stirred for 4 hours at room temperature then diluted with 150 mL of ethyl acetate. The solution was washed with saturated aqueous sodium bicarbonate, dried over magnesium sulfate, filtered and the solvent removed under vacuum. The resulting material was purified by column chromatography on silica gel, eluting with chloroform/10% concentrated ammonium hydroxide in methanol (96:4), to afford 342 mg (48%) of the products in a 1.5:1 ratio of N-1:N-3 imidazole regioisomers as a colorless oil. FAB-MS: calculated for C13H24N2O3Si 284; found 285 (M+H, 100%). 1H NMR (200 MHz, CDCl3): 0.00 (s, 18H), 0.90 (m, 4H), 1.25 (t, 7 Hz, 6H), 3.45 (m, 4H), 3.65 (s, 2H), 3.70 (s, 2H), 4.15 (m, 4H), 5.20 (s, 2H), 5.35 (s, 2H), 7.00 (s, 1H), 7.02 (s, 1H), 7.65 (s, 1H), 7.97 (s, 1H).

reactant | 1H-imidazole-4-acetic acid ethyl ester | 2.48 mmol, 383 gm | C(C)OC(CC=1N=CNC1)=O | C7H10N2O2
reactant | sodium hydride | 2.73 mmol, 109 mg | [H-].[Na+]
reactant | 2-trimethylsilylethoxymethyl chloride | 3.0 mmol, 0.53 mL | C[Si](CCOCCl)(C)C | C6H15ClOSi
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
product | 1-(2-Trimethylsilylethoxy)methyl-1H-imidazole-4-acetic acid, ethyl ester | 342 mg, 48% | C[Si](CCOCN1C=NC(=C1)CC(=O)OCC)(C)C | C13H24N2O3Si
